US09403798B2
tert-Butyl 4-(4-fluorophenyl)-5-(methylsulfonamido)-5,6-dihydropyridine-1(2H)-carboxylate
To a tetrahydrofuran solution (2.0 mL) of tert-butyl 5-amino-4-(4-fluorophenyl)-5,6-dihydropyridine-1(2H)-carboxylate (100 mg, 0.342 mmol) synthesized in Reference Synthesis Example 202, triethylamine (52.0 μL, 0.374 mmol), and N,N-dimethyl-4-aminopyridine (2.00 mg, 0.0170 mmol) were added, and then methanesulfonyl chloride (29.0 μL, 0.374 mmol) was added at 0° C. with stirring, followed by stirring the resultant reaction solution for 2 hours. After completion of the reaction, saturated ammonium chloride aqueous solution was added to the reaction solution and extraction from the resultant mixture with ethyl acetate was performed. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain a crude product of the title compound.

reactant | tert-butyl 5-amino-4-(4-fluorophenyl)-5,6-dihydropyridine-1(2H)-carboxylate | 0.342 mmol, 100 mg | NC1C(=CCN(C1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F | C16H21FN2O2
reactant | triethylamine | 0.374 mmol, 52.0 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.374 mmol, 29.0 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | N,N-dimethyl-4-aminopyridine | 0.0170 mmol, 2.00 mg | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
product | tert-Butyl 4-(4-fluorophenyl)-5-(methylsulfonamido)-5,6-dihydropyridine-1(2H)-carboxylate | FC1=CC=C(C=C1)C1=CCN(CC1NS(=O)(=O)C)C(=O)OC(C)(C)C | C17H23FN2O4S
